### PR TITLE
feat(Probability/Distributions): formalize Beta distribution

### PR DESCRIPTION
**Pull request by arulandu**
Formalize Beta distribution, using Gamma distribution as a reference. Added real-valued beta wrapper, in the manner of gamma. Thanks to @EtienneC30 for help with casting real <-> complex.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Distributions/Beta.lean [hunk 1]
```diff
@@ -0,0 +1,331 @@
...
+    exact ha
+  have hb' : 0 < (↑b : ℂ).re := by
+    rw [Complex.ofReal_re]
+    exact hb
+  have h := Complex.betaIntegral_convergent ha' hb'
+  rw [betaPDF_integrable_cast] at h
+  exact h
+
+lemma betaIntervalIntegralPos {a b : ℝ} (ha: 0 < a) (hb : 0 < b) :
+∫ (x : ℝ) in (0)..1, x ^ (a - 1) * (1 - x) ^ (b - 1) > 0 := by
```
[the remark this answers is not in the document]
Comment (arulandu) [reply Mathlib/Probability/Distributions/Beta.lean:158]: bot fix style

File: Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean [hunk 2]
```diff
@@ -458,10 +458,95 @@ theorem Gamma_ne_zero_of_re_pos {s : ℂ} (hs : 0 < re s) : Gamma s ≠ 0 := by
...
   simpa only [hs, neg_re, ← ofReal_natCast, ofReal_re, neg_nonpos] using Nat.cast_nonneg _
 
+lemma integral_re {X : Type*} [MeasurableSpace X]
+    (μ : Measure X) {f : X → ℂ} (hf : Integrable f μ) :
+    ∫ x, (f x).re ∂μ = (∫x, f x ∂μ).re := _root_.integral_re hf
+
+lemma setIntegral_re {X : Type*} [MeasurableSpace X]
+    (μ : Measure X) {s : Set X} {f : X → ℂ} (hf : IntegrableOn f s μ) :
+    ∫ x in s, (f x).re ∂μ = (∫x in s, f x ∂μ).re := Complex.integral_re _ hf.integrable
+
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:468]: You should open a separate PR for these, as they have nothing to do with the `Beta` function, and make this PR depend on it (the hidden comment in the PR description explains how to indicate a dependency). I would put them in `Mathlib.MeasureTheory.Integral.SetIntegral`, along their `RCLike` versions. Please also add an `intervalIntegral` version.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:1]: Again you should open a new PR and make this one depend on it. When modifying different files, it is almost always worth to open a separate PR for each file, it makes reviewing much easier.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean [hunk 3]
```diff
@@ -458,10 +458,95 @@ theorem Gamma_ne_zero_of_re_pos {s : ℂ} (hs : 0 < re s) : Gamma s ≠ 0 := by
...
+@[pp_nodot]
+def Beta (a b : ℝ) : ℝ :=
+  (Complex.betaIntegral a b).re
+
+lemma integrable_iff_ofReal {X : Type*} [MeasurableSpace X] {μ : Measure X}
+    {f : X → ℝ} : Integrable f μ ↔ Integrable (fun x ↦ (f x : ℂ)) μ :=
+    ⟨fun hf ↦ hf.ofReal, fun hf ↦ hf.re⟩
+
+lemma integrableOn_iff_ofReal {X : Type*} [MeasurableSpace X] {μ : Measure X} {s : Set X}
+    {f : X → ℝ} : IntegrableOn f s μ ↔ IntegrableOn (fun x ↦ (f x : ℂ)) s μ := integrable_iff_ofReal
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:483]: Please open a fourth PR for these, again it is independent from the rest. I'd put the first in `Mathlib.MeasureTheory.Function.L1Space`, next to `Integrable.ofReal`, the second in `Mathlib.MeasureTheory.Integral.IntegrableOn`, and add an `IntervalIntegrable` version please in `Mathlib.MeasureTheory.Integral.IntervalIntegral`.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean [hunk 4]
```diff
@@ -458,10 +458,95 @@ theorem Gamma_ne_zero_of_re_pos {s : ℂ} (hs : 0 < re s) : Gamma s ≠ 0 := by
...
+
+  rw [← intervalIntegrable_iff_integrableOn_Ioc_of_le (by norm_num)]
+  exact Complex.betaIntegral_convergent ha' hb'
+
+lemma BetaIntegral_ofReal {a b : ℝ} (ha : 0 < a) (hb : 0 < b) :
+    Beta a b = ∫ (x : ℝ) in Ioo 0 1, x ^ (a - 1) * (1 - x) ^ (b - 1) := by
+  rw [Beta, Complex.betaIntegral]
+  rw [BetaIntegral_ofReal_interval ha hb]
+  rw [intervalIntegral.integral_of_le (by norm_num)]
+  rw [integral_Ioc_eq_integral_Ioo]
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:511]: You can put all these in one `rw`:
```suggestion
rw [Beta, Complex.betaIntegral, BetaIntegral_ofReal_interval ha hb,
    intervalIntegral.integral_of_le (by norm_num), integral_Ioc_eq_integral_Ioo]
```

File: Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean [hunk 5]
```diff
@@ -458,10 +458,95 @@ theorem Gamma_ne_zero_of_re_pos {s : ℂ} (hs : 0 < re s) : Gamma s ≠ 0 := by
...
+
+private lemma Beta_integrable_cast {a b : ℝ} :
+    IntervalIntegrable (fun x ↦ (x : ℂ) ^ (↑a - 1:ℂ) * (1 - ↑x) ^ (↑b - 1:ℂ)) volume 0 1 ↔
+    IntervalIntegrable (fun x ↦ x ^ (a - 1) * (1 - x) ^ (b - 1)) volume 0 1 := by
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:515]: Again I think it's better if you get rid of this lemma and integrate it in the proof below.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean [hunk 6]
```diff
@@ -458,10 +458,95 @@ theorem Gamma_ne_zero_of_re_pos {s : ℂ} (hs : 0 < re s) : Gamma s ≠ 0 := by
...
+  have hb' : 0 < (↑b : ℂ).re := by
+    rw [Complex.ofReal_re]
+    exact hb
+  have h := Complex.betaIntegral_convergent ha' hb'
+  rw [Beta_integrable_cast] at h
+  exact h
+
+lemma Beta_pos {a b : ℝ} (ha : 0 < a) (hb : 0 < b) : Beta a b > 0 := by
+  rw [Beta, Complex.betaIntegral]
+  rw [BetaIntegral_ofReal_interval ha hb]
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:540]: Again you can put everything in one `rw`

File: Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean [hunk 7]
```diff
@@ -458,10 +458,95 @@ theorem Gamma_ne_zero_of_re_pos {s : ℂ} (hs : 0 < re s) : Gamma s ≠ 0 := by
...
+    exact ha
+  have hb' : 0 < (b : ℂ).re := by
+    rw [Complex.ofReal_re]
+    exact hb
+
+  rw [← intervalIntegrable_iff_integrableOn_Ioc_of_le (by norm_num)]
+  exact Complex.betaIntegral_convergent ha' hb'
+
+lemma BetaIntegral_ofReal {a b : ℝ} (ha : 0 < a) (hb : 0 < b) :
+    Beta a b = ∫ (x : ℝ) in Ioo 0 1, x ^ (a - 1) * (1 - x) ^ (b - 1) := by
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:507]: Why don't you write it as an integral in `(0)..1`?

**Review by EtienneC30 — COMMENTED** [review]
That's nice, but some lemmas are unnecessary in my opinion. Also, even though I reviewed this, please open another PR and make the modifications there.

File: Mathlib/Probability/Distributions/Beta.lean [hunk 8]
```diff
@@ -0,0 +1,213 @@
...
+    positivity
+  · rw [EventuallyLE, ae_restrict_iff' measurableSet_Ioo]
+    exact ae_of_all _ (fun x (hx : 0 < x ∧ x < 1) ↦ by
+      rw [Pi.zero_apply]
+      have hpos := betaPDFReal_nonneg ha hb
+      unfold betaPDFReal at hpos
+      specialize hpos x
+      rw [if_pos hx] at hpos
+      exact hpos
+    )
```
Comment (EtienneC30) [inline Mathlib/Probability/Distributions/Beta.lean:173]: Here is a bit shorter way, feel free to add it or not. However, please avoid to write multiline tactic blocks inside the arguments of a theorem. Use `apply` or `refine` instead.
```suggestion
    refine ae_of_all _ fun x hx ↦ ?_
    convert betaPDFReal_nonneg ha hb x using 1
    rw [betaPDFReal, if_pos (mem_Ioo.1 hx)]
```

File: Mathlib/Probability/Distributions/Beta.lean [hunk 9]
```diff
@@ -0,0 +1,213 @@
...
+  · apply (measurable_betaPDFReal a b).aestronglyMeasurable.congr
+    refine (ae_restrict_iff' measurableSet_Ioo).mpr <| ae_of_all _ fun x (hx : 0 < x ∧ x < 1) ↦ ?_
+    simp_rw [betaPDFReal, eq_true_intro hx, ite_true]
+end BetaPDF
```
Comment (EtienneC30) [inline Mathlib/Probability/Distributions/Beta.lean:177]:
```suggestion
    simp_rw [betaPDFReal, eq_true_intro hx, ite_true]

end BetaPDF
```

**Review by EtienneC30 — COMMENTED** [review]
That's a good job. My comments are mostly about conventions in naming, writing proofs etc. I sometimes put shorter writing, feel free to use it if you like it or discard it if you think it makes code less readable.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean (hunk 3 above)
Comment (EtienneC30) [reply Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:483]: In fact you can put these results and the ones about `integral_re` in the same PR.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean [hunk 10]
```diff
@@ -458,10 +458,95 @@ theorem Gamma_ne_zero_of_re_pos {s : ℂ} (hs : 0 < re s) : Gamma s ≠ 0 := by
...
+lemma integrable_iff_ofReal {X : Type*} [MeasurableSpace X] {μ : Measure X}
+    {f : X → ℝ} : Integrable f μ ↔ Integrable (fun x ↦ (f x : ℂ)) μ :=
+    ⟨fun hf ↦ hf.ofReal, fun hf ↦ hf.re⟩
+
+lemma integrableOn_iff_ofReal {X : Type*} [MeasurableSpace X] {μ : Measure X} {s : Set X}
+    {f : X → ℝ} : IntegrableOn f s μ ↔ IntegrableOn (fun x ↦ (f x : ℂ)) s μ := integrable_iff_ofReal
+
+lemma BetaIntegral_ofReal_interval {a b : ℝ} (ha : 0 < a) (hb : 0 < b) :
+    (∫ (x : ℝ) in (0)..1, (x : ℂ) ^ (↑a - 1:ℂ) * (1 - ↑x) ^ (↑b - 1:ℂ)).re =
+      ∫ (x : ℝ) in (0)..1, x ^ (a - 1) * (1 - x) ^ (b - 1) := by
```
[the remark this answers is not in the document]
Comment (arulandu) [reply Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:487]: The reason I had this separated was since it was a fairly large chunk of code repeated btw the following lemma and Beta_pos (which I thought was a nice fact to add in the special functions). I will put this in that PR as opposed to this one

File: Mathlib/Probability/Distributions/Beta.lean [hunk 11]
```diff
@@ -0,0 +1,213 @@
...
+  Measurable.ite
+    measurableSet_Ioo (((measurable_id'.pow_const _).const_mul _).mul
+    ((measurable_const.sub' measurable_id').pow_const _))
+    measurable_const
+
+/-- The beta pdf is strongly measurable -/
+@[measurability]
+ lemma stronglyMeasurable_betaPDFReal (a b : ℝ) :
+     StronglyMeasurable (betaPDFReal a b) :=
+   (measurable_betaPDFReal a b).stronglyMeasurable
```
[the remark this answers is not in the document]
Comment (arulandu) [reply Mathlib/Probability/Distributions/Beta.lean:118]: unrecognized function property (same as for pareto PR)

File: Mathlib/Probability/Distributions/Beta.lean [hunk 12]
```diff
@@ -0,0 +1,213 @@
...
+  rw [← Iio_union_Icc_eq_Iic hzy, lintegral_union measurableSet_Icc]
+  rw [Set.disjoint_iff]
+  rintro x ⟨h1 : x < _, h2, _⟩
+  linarith
+
+namespace ProbabilityTheory
+
+section BetaPDF
+
+/-- The pdf of the beta distribution depending on its scale and rate -/
```
[the remark this answers is not in the document]
Comment (arulandu) [reply Mathlib/Probability/Distributions/Beta.lean:41]: got it, apologies

File: Mathlib/Probability/Distributions/Beta.lean (hunk 8 above)
Comment (arulandu) [reply Mathlib/Probability/Distributions/Beta.lean:173]: ah got it

File: Mathlib/Probability/Distributions/Beta.lean [hunk 13]
```diff
@@ -0,0 +1,213 @@
...
+lemma betaPDFReal_nonneg {a b : ℝ} (ha : 0 < a) (hb : 0 < b) (x : ℝ) : 0 ≤ betaPDFReal a b x := by
+  unfold betaPDFReal
+  split_ifs with ht
+  · have h1 : x ^ (a - 1) ≥ 0 := rpow_nonneg (le_of_lt ht.left) (a - 1)
+    have h2 : (1 - x) ^ (b - 1) ≥ 0 := by
+      have hp : 1 - x ≥ 0 := by linarith
+      exact rpow_nonneg hp (b - 1)
+    have hbeta:= Beta_pos ha hb
+
+    positivity
```
[the remark this answers is not in the document]
Comment (arulandu) [reply Mathlib/Probability/Distributions/Beta.lean:64]: fixed all of these

File: Mathlib/Probability/Distributions/Beta.lean [hunk 14]
```diff
@@ -0,0 +1,213 @@
...
+
+open MeasureTheory Real Set Filter Topology
+
+/-- A Lebesgue Integral from -∞ to y can be expressed as the sum of one from -∞ to 0 and 0 to x -/
+lemma lintegral_Iic_eq_lintegral_Iio_add_Icc {y z : ℝ} (f : ℝ → ℝ≥0∞) (hzy : z ≤ y) :
+    ∫⁻ x in Iic y, f x = (∫⁻ x in Iio z, f x) + ∫⁻ x in Icc z y, f x := by
+  rw [← Iio_union_Icc_eq_Iic hzy, lintegral_union measurableSet_Icc]
+  rw [Set.disjoint_iff]
+  rintro x ⟨h1 : x < _, h2, _⟩
+  linarith
```
[the remark this answers is not in the document]
Comment (arulandu) [reply Mathlib/Probability/Distributions/Beta.lean:35]: Yeah, I don't actually use this so it's clutter. If I were to separate PR this + the other lintegral_eq lemma that I do use, where would recommend I put this?

File: Mathlib/Probability/Distributions/Beta.lean [hunk 15]
```diff
@@ -0,0 +1,213 @@
...
+@[measurability]
+ lemma stronglyMeasurable_betaPDFReal (a b : ℝ) :
+     StronglyMeasurable (betaPDFReal a b) :=
+   (measurable_betaPDFReal a b).stronglyMeasurable
+
+open Measure
+
+/-- A Lebesgue Integral from -∞ to y can be expressed as the sum of one from -∞ to 0 and 0 to x -/
+lemma lintegral_Iio_eq_lintegral_Iic_add_Ioo {y z : ℝ} (f : ℝ → ℝ≥0∞) (hzy : z < y) :
+    ∫⁻ x in Iio y, f x = (∫⁻ x in Iic z, f x) + ∫⁻ x in Ioo z y, f x := by
```
[the remark this answers is not in the document]
Comment (arulandu) [reply Mathlib/Probability/Distributions/Beta.lean:124]: got it

File: Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean (hunk 7 above)
Comment (arulandu) [reply Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:507]: fixed

File: Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean (hunk 5 above)
Comment (arulandu) [reply Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:515]: agreed, done

**Comment by arulandu** [comment]
@EtienneC30 I've addressed your comments about writing etc. For the new PRs, I just wanted to condense your feedback and make sure I understand this correctly:
PR1: `integrable_iff_ofReal` and similar for integrableOn, each in the file locations you suggested. integral_re and setIntegral_re as well. make equivalents for intervalIntegrable
PR2: `def Beta`, Beta_pos, BetaIntegral_ofReal, Beta_integrand_intervalIntegrable in `SpecialFunctions/Gamma/Beta.lean`
PR3: Beta formalization in `/Distributions/Beta.lean` 

Dependencies: (3) <- (1) + (2) and (2) <- (1). This PR will then get dropped in favor for 3, after 1 and 2 are merged. 

I understand having the dependencies specified in the PR, but in order for the code in the branch respective to PR3 for example to run, won't the PR1 + PR2 changes need to be present, meaning the diff will have multiple files? Or should I just do PR1, wait for finalization then PR2, then PR3?

**Comment by EtienneC30** [comment]
You understood perfectly (indeed it was not very clear sorry for that). The way to go is as follows: indeed your modifications of PR1 and PR2 will appear in PR3 as well, making more diffs. But it does not matter because PR3 won't be reviewed while PR1 and PR2 aren't. When for example PR1 is merged to master, you should merge master into the branch of your PR2, that way the old diff of PR1 disappears. And once PR2 is merged to master, you can merge master to the branch of PR3.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:505]: But in `Beta_pos` you can directly `rw` with `BetaIntegral_ofReal`.

File: Mathlib/Probability/Distributions/Beta.lean (hunk 11 above)
[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/Probability/Distributions/Beta.lean:111]: And same answer, sorry for those

**Comment by arulandu** [comment]
Ok if this is the case, it seems easiest to just do these PR's one at a time, since there may be changes in the review of PR 1 etc. Will close this PR and open 1, then 2, then 3

File: Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:505]: If you have a result that's important in the context of a proof but artificial or useless elsewhere, usually the solution is to make it a `private` lemma or theorem.

[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/Analysis/SpecialFunctions/Gamma/Beta.lean:505]: I don't think this is the way to go here, as this lemma is the main part of the proof `BetaIntegral_ofReal` and is not used elsewhere (as I said, it is not necessary for `Beta_pos`), so I think it definitely makes more sense to put it directly in the proof of `BetaIntegral_ofReal`.

**Comment by vihdzp** [comment]
Is this PR still relevant? #26785 did the beta distribution as well (and got merged).

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
